US05663053
A mixture of 1,4,5-triphenyl-3-(7-bromoheptyl)-imidazol-2-one (1.0 g) and triethyl phosphite (1.66 g) was heated at reflux temperature in xylene (5 ml) for 40 hours. The solution was evaporated to an oil and re-evaporated from ethanol. The oil was partitioned between ether and water, the ether solution was separated, dried over magnesium sulphate and evaporated to an oil which was chromatographed on silica gel (ethyl acetate) to give diethyl 7-(1,4,5-triphenylimidazol-2-yl-oxy)heptanephosphonate as an oil which solidified on standing to a white solid (0.83 g; 75%), m.p. 76°-7° C. Found: C, 70.49; H, 7.40; N, 4.94%; C32H39N204P; Requires: C, 70.31; H, 7.19; N, 5.12%.

reactant | 1,4,5-triphenyl-3-(7-bromoheptyl)-imidazol-2-one | 1.0 g | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCBr)=O | C28H29BrN2O
reactant | triethyl phosphite | 1.66 g | P(OCC)(OCC)OCC | C6H15O3P
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | diethyl 7-(1,4,5-triphenylimidazol-2-yl-oxy)heptanephosphonate | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCP(OCC)(=O)OCC | C32H39N2O4P
